US07439257B2
7.1. 1,1-dimethylethyl 4-[(1-naphthalenyl-oxy)methyl]-1-piperidinecarboxylate
A solution of 5.0 g (23.2 mmol) of 1,1-dimethylethyl 4-(hydroxymethyl)-1-piperidinecarbooxylate, 4.3 g (29.8 mmol) of 1-naphthalenol and 7.82 g (29.8 mmol) of triphenylphosphine in 120 ml of tetrahydrofuran, cooled under nitrogen by means of an ice bath, is admixed dropwise with a solution of 6.03 g (29.8 mmol) of diisopropyl azodicarboxylate. The reaction mixture is allowed to return to ambient temperature and stirring is continued overnight. 2 ml of methanol are added and then the mixture is evaporated to dryness. The residue is taken up in 200 ml of dichloromethane and washed in succession with a 10% aqueous potassium hydrogen sulfate solution, water and a 1M aqueous solution of sodium hydroxide. The system is dried over sodium sulfate and evaporated to dryness. The product is purified by chromatography on silica gel, eluting with an 80/20 then 70/30 and 50/50 mixture of cyclohexane and dichloromethane, to give 7.96 g of product in oil form, which solidifies.

reactant | 1-naphthalenol | 29.8 mmol, 4.3 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | triphenylphosphine | 29.8 mmol, 7.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 29.8 mmol, 6.03 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methanol | 2 ml | CO | CH4O
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl 4-[(1-naphthalenyl-oxy)methyl]-1-piperidinecarboxylate | 7.96 g | C1(=CC=CC2=CC=CC=C12)OCC1CCN(CC1)C(=O)OC(C)(C)C | C21H27NO3
